US05015640
1.0 g of benzyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate is dissolved in 1 ml of methanol. The solution is cooled to 0° C. and treated with 0.6 ml of a 5N alcoholic hydrochloric acid solution. After stirring at 0°-5° C. for ten minutes, 10 ml of n-hexane are added, the precipitated product is removed by filtration under suction, and there is obtained benzyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate hydrochloride, m.p. 90°-92° C.

reactant | benzyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | 1.0 g | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC3=CC=CC=C3)=N | C22H20N2O
reactant | hydrochloric acid | 5N | Cl | ClH
reactant | n-hexane | 10 ml | CCCCCC | C6H14
solvent | methanol | 1 ml | CO | CH4O
product | benzyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate hydrochloride | Cl.C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC3=CC=CC=C3)=N | InChI=1S/C22H20N2O.ClH/c23-22(25-16-17-8-2-1-3-9-17)24-14-18-10-4-6-12-20(18)21-13-7-5-11-19(21)15-24;/h1-13,23H,14-16H2;1H
